US05310499
B. (4R)-(-)-4-Phenyl-2-oxazolidinone
7.54 g (55 mmol) of (2R)-(-)-2-amino-2-phenylethanol are dissolved in 8 ml (61 mmol) of diethyl carbonate, 770 mg (5.5 mmol) of K2CO3 are added, and ethanol is removed by distillation via a column. The crude product is recrystallized from ether/petroleum ether.

reactant | (2R)-(-)-2-amino-2-phenylethanol | 55 mmol, 7.54 g | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | diethyl carbonate | 61 mmol, 8 ml | C(OCC)(OCC)=O | C5H10O3
reactant | K2CO3 | 5.5 mmol, 770 mg | C(=O)([O-])[O-].[K+].[K+]
product | (4R)-(-)-4-Phenyl-2-oxazolidinone | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
